US06977263B2
A solution of 4-methyl-3-bromobenzylbromide (1.63 g, 6.2 mmol, prepared according to the procedure described in International Patent Application No. WO 0009475) and di-tert-butyliminodicarboxylate (1.48 g, 6.8 mmol) in anhydrous tetrahydrofuran (15 ml) was treated portionwise with sodium hydride (0.27 g of 60% dispersion in mineral oil, 6.8 mmol). The mixture was stirred at ambient temperature for 18 hours then partitioned between saturated aqueous ammonium chloride solution (20 ml) and ethyl acetate (3 lots of 80 ml). The combined organic layers were washed with brine (80 ml), then dried over magnesium sulfate and concentrated under vacuum. The residue was subjected to chromatography on silica gel eluting with a mixture of cyclohexane and diethyl ether (9:1, v/v) to give 4-[N,N-bis-(tert-butoxycarbonyl)aminomethyl]-2-bromo-toluene as a pale yellow oil (2.4 g). 1H NMR (CDCl3, 500 MHz): δ 7.45 (s, 1H), 7.18 (m, 2H), 4.71 (s, 2H), 2.38 (s, 3H), 1.43 (s, 18H).

reactant | 4-methyl-3-bromobenzylbromide | CC1=C(C=C(CBr)C=C1)Br | C8H8Br2
reactant | di-tert-butyliminodicarboxylate | 6.8 mmol, 1.48 g | CC(C)(C)OC(=O)NC(=O)OC(C)(C)C | C10H19NO4
reactant | sodium hydride | 6.8 mmol, 0.27 g | [H-].[Na+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 4-[N,N-bis-(tert-butoxycarbonyl)aminomethyl]-2-bromo-toluene | 2.4 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC1=CC(=C(C=C1)C)Br | C18H26BrNO4
